US05663191
Stage A: cis-1-Benzyl-3-hydroxymethyl-4-(2-hydroxy-4-methoxyphenyl)pyrrolidine
To 230 mmol of lithium aluminum hydride in 800 ml of THF, under a nitrogen atmosphere, are added 180 mmol of cis-2-benzyl-7-methoxy-1,3,3a,9b-tetrahydrobenzopyrano [3,4-c]pyrrol-4-one, described in Preparation G, at +5° C. The reaction medium is maintained at +10° C. for one hour before being hydrolyzed, and is filtered on Celite. The organic phase is dried and, after evaporation, gives the expected product.

reactant | lithium aluminum hydride | 230 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | cis-2-benzyl-7-methoxy-1,3,3a,9b-tetrahydrobenzopyrano [3,4-c]pyrrol-4-one | 180 mmol | C(C1=CC=CC=C1)N1C[C@H]2[C@@H](C1)C1=C(OC2=O)C=C(C=C1)OC | C19H19NO3
solvent | THF | 800 ml | C1CCOC1 | C4H8O
product | cis-1-Benzyl-3-hydroxymethyl-4-(2-hydroxy-4-methoxyphenyl)pyrrolidine | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)C1=C(C=C(C=C1)OC)O)CO | C19H23NO3
